Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Sent here from ___ Behavioral Care for electrolyte 
disturbances
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ___ yr h/o anorexia and bulimia, relapsed 2 months ago 
after not being active for ___ yrs. 2 mo ago began restricting 
food and twice per week would have ___ hr sessions of binging 
and vomiting. Last binge/purge was one week ago. Wanted to get 
help for this so was going to ___, and when 
she got there, electrolytes were abnormal, so sent to ED for 
further management.
.
PCP is ___ at ___ who she sees for yearly physicals. Per 
pt, PCP has said she will not see pt again until she is willing 
to have a psych eveal for the anorexia. Pt goes to ___ 
___ urgent care for medcial complaints. Has been in 
anorexic annoymous group for many years which is what has 
provided the social support to combat her anorexia/bulimia in 
the past.
.
In the ED: 98.3 90 ___ 100% RA. Labs were done showing Na 
125, Cl 86, K 2.7, Ca (free) 1.01. Hct lowish at 35. Rest of 
chem/CBC normal. UA was negative. EKG was done and reportedly 
normal (see below). In the ED she received 2L NS (unknown rate) 
and 40 mEq KCl.
.
On the floor, pt appears comfortable, not ill. She is pleasant 
and denies SI/HI, manic sxs, but endorses chronic depression. 
The scabbing ulcers on her R hand she says she got recently from 
bug bites she itched. Also endorsing ___ bruises and what appears 
to be petechial rashes on R thigh. She endorses approx ___ lb 
loss in past two weeks and is 86 lbs on admission. She endorses 
increased stress in past 6 mos as her boss is mean to her and 
yells at her, as the trigger for worsening bulimia. Before this, 
she was going to overeaters anonymous and doing well with that.
.
ROS as above, o/w negative for f/c/ns, HEENT problems, SOB, CP, 
palpitations, dysphagia, abd pain, dysuria, dizziness, LH, 
orthostatic sxs.
 
Past Medical History:
1. ___ as a child, denies neuro sequalae
2. Low bp's at baseline ___ systolics)
3. Chronic depression
4. Anorexia/bulimia
5. PTSD?
6. No menstrual cycle for ___ years
7. Denies h/o CVA's, AMI's, DM, HTN, other major medical 
illnesses 
 
Social History:
___
Family History:
HTN
Father deceased from "lymph node cancer"
Mother alive and well
 
Physical Exam:
Temp: 97.7   BP 85/52   HR 84   RR 18   Sats 100%RA
Orthostatic vitals were done and showed lying BP of 88/50 w/ HR 
84. Standing BP 84/56 w/ HR 84.
Diffusely thin woman in no distress, appears not ill but 
emaciated
Mouth moist, normal appearing 
Thyroid cartilage is prominent given very thin neck, thyroid not 
overly large
CTAB no w/c/r/r
RRR but S1/S2 soft, no m/g heard
Abd soft, NT ND, scaphoid
BLE very thin, no BLE edema. R thigh with petechial rash and LLE 
with ecchymoses. R dorsum of hand with scabbing ulcerations. 
CN ___ intact, spont moving all 4 extrems, neuro exam grossly 
intact
 
Pertinent Results:
Admitting Labs ___:

CBC:
WBC-6.3 RBC-3.86* Hgb-12.0 Hct-35.0* MCV-91 MCH-31.0 MCHC-34.1 
RDW-13.8 Plt ___

Chemistries:
Glucose-84 UreaN-13 Creat-0.7 Na-125* K-3.3 Cl-86* HCO3-30 
AnGap-12
ALT-16 AST-24 AlkPhos-36 TotBili-0.3
Albumin-4.2 Calcium-9.2 Phos-2.8 Mg-1.7
freeCa-1.01*

TSH-1.4

Discharge Labs:
CBC: WBC-4.4 RBC-3.19* Hgb-10.2* Hct-30.0* MCV-94 MCH-32.0 
MCHC-34.1 RDW-14.0 Plt ___

Electrolytes: Glucose-75 UreaN-18 Creat-0.6 Na-137 K-4.6 Cl-107 
HCO3-24 AnGap-11 Calcium-8.6 Phos-2.7 Mg-2.2

ECG:
Sinus rhythm. Findings are within normal limits. No previous 
tracing 
available for comparison.  

Intervals              Axes 
Rate PR  QRS QT/QTc    P  QRS T 
69   170 78  ___  68 
 

 
Brief Hospital Course:
#) Hypokalemia:
Pt was admitted with hypokalemia (2.7), hypochloremia (86), and 
hyponatermia (125) after being sent to the ___ ED from ___ 
___ with concerns for abnormal electrolytes. In the 
ED the patient was given 2L of NS along with 40mEq of K. No EKG 
abnormalities were noted (no U waves). On the floor 60mEq more K 
was given along with another liter of NS. Her electrolyte 
abnormalities gradually improved.
.
#) Anorexia/Bulimia:
Pt was admitted and placed on a regular diet. Her PO intake was 
encouraged and electrolytes monitored over concerns for 
re-feeding syndrome (although this was considered low 
probability since pt described eating on the outside). A 
psychiatric consult was obtained which recommended sending to 
___ as soon as stable, stopping chantix, and putting on 
eating disorders diet. Nutition consult was obtained and 
recommended regular diet and daily calorie counts.  Patient was 
placed on eating disorder protocol, which includes supervision 
for meals and immediately after meals.  Room search revealed 
laxatives and diuretics which were held.  
.
#) Depression:
Pt had history of depression although she did not express 
symptoms of depression upon admission. No SI was articulated 
despite specific questioning. Pt was kept on her home dose of 
fluoxitiene and put on her home clonazepam dose.
.
#) Disposition:
Pt was instructed to return to ___ upon 
discharge from ___. The plan is for her to have an inpatient 
stay for treatment of eating disorder.
 
Medications on Admission:
1. Prozac 60 mg hs
2. Klonopin 0.25 mg bid
3. Chantix 0.5 bid
4. Occasional tylenol 
 
Discharge Medications:
1. Fluoxetine 20 mg Capsule Sig: Three (3) Capsule PO HS (at 
bedtime).  
2. Clonazepam 0.25 mg Tablet, Rapid Dissolve Sig: One (1) 
Tablet, Rapid Dissolve PO twice a day as needed for anxiety.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Diagnosis:
1) Hypokalemia/Hypochloremia/hyponatremia
2) Anorexia
3) Bulimia

Minor Diagnosis:
1) Depression
2) Tobacco dependence (in recovery)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Miss ___, it was a pleasure taking care of you during your 
stay.
.
You were admitted to the hospital because your potassium, 
chloride, and sodium levels were low and their was concern over 
your decreased food intake. Upon arrival at ___, you 
received three liters of IV fluids which helped raise your 
sodium and chloride. You were also given a large amount of 
potassium in pill form. This corrected your low potassium. You 
were given a normal diet and instructed to eat and drink 
liberally without binging. The next morning your phosphate and 
magnesium levels were low and we gave you some of each chemical. 
We watched you in the hospital over another night in order to 
make sure all your levels stayed in appropriate ranges. The 
psychiatry service visited you and also left recommendations for 
your care. You were not discharged on any new medications, but 
it is very important that you proceed immediately to ___ to 
be admitted for a brief inpatient stay to receive help with your 
eating disorder.
 
Followup Instructions:
___